US07745475B2
tert-Butyl 3-amino-1H-pyrazole-1-carboxylate
1H-Pyrazol-3-amine (428 mg, 5.15 mmol) was dissolved in DMF (5 mL) at 0° C. and treated with sodium hydride (206 mg, 5.15 mmol) followed by stirring for a further 30 min. Warmed di-tert-butyl dicarbonate (1.12 g, 5.15 mmol) was then slowly added via syringe over 5 min and the reaction was allowed to warm to RT and stirred for a further 2 h. The reaction was taken up in saturated aqueous sodium hydrogencarbonate (50 mL) and ethyl acetate (100 mL). The organic layer was separated then dried (MgSO4), filtered and evaporated. Purification by column chromatography (eluting with 1:1 ethyl acetate:hexanes to neat ethyl acetate) afforded the title compound as a white solid (117 mg, 18%).

reactant | 1H-Pyrazol-3-amine | 5.15 mmol, 428 mg | N1N=C(C=C1)N | C3H5N3
reactant | sodium hydride | 5.15 mmol, 206 mg | [H-].[Na+]
reactant | di-tert-butyl dicarbonate | 5.15 mmol, 1.12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | sodium hydrogencarbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-amino-1H-pyrazole-1-carboxylate | 117 mg, 18% | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
